### PR TITLE
refactor: golf proofs

### PR DESCRIPTION
**Pull request by Vilin97**
Golfs proofs across Physlib: streamlining arguments, using stronger mathlib lemmas and tactics, removing redundant steps, and increasing code reuse. **No statements or definitions are changed — only proofs.**

Rebased directly onto `master` (previously stacked on the now-closed #1332; all of that PR's golfs were dropped — this diff is exclusively this PR's own work).

## Stats (final)

- Proofs golfed: **~1,561** across **129** files
- Net line change (proof bodies only): **−6,743 (10,692 deletions, 3,949 insertions)**
- Verification: every touched file recompiled with `-Dwarn.sorry=false -Dweak.says.verify=true`; full `lake build` green (9,121 jobs) at the final tip; a signature audit over every changed file confirms all declaration headers (statements) are byte-identical to master.

## Process disclosure (per AI-POLICY.md)

- Models: golfing subagents ran on **Claude Fable 5** (`claude-fable-5`) and **Claude Opus 4.8** (`claude-opus-4-8`). One max-reasoning subagent per file, each self-verifying via a per-file `lake env lean` compile with the CI flags, followed by an independent re-verification, statement-safety diff scan, and a full workspace build before each push.
- Wall-clock time: **~42h (spanning session-limit resets)**
- Token usage (approximate, output tokens across all agents): **~21M**

## Prompt used

> Golf AS MUCH AS POSSIBLE in Physlib. Update PR #1364.
> Do not change statements, and do not cram tactics on one line. Genuinely make proofs
> shorter and simpler by streamlining arguments, increasing mathlib usage, reduce code duplication, increase code reuse, use more powerful tactics, etc. Do not change any statements and definitions - only work on proofs!
> Keep RAM usage under 40GB. Be thorough, go project by project carefully. If spawning agents, use max reasoning, and tell them to be very
> thorough. DO NOT ASK ME ANYTHING AND DO NOT GIVE UP, KEEP FINDING NEW WAYS TO COMPRESS.
> Open a draft PR once you golfed 50 proofs, and then every 10, update the PR. Put
> this prompt in the PR description and also model name and how long and how many tokens this golfing process took.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

https://claude.ai/code/session_01YRA4h6VJRALwaZK1xeUsg3

### CODE REVIEW

**Comment by jstoobysmith** [comment]
@Vilin97 Hmm doesn't seem like that check-golf updated the comment.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 1]
```diff
@@ -332,55 +302,30 @@ lemma k_eq_m_mul_ω_sq : S.k = S.m * S.ω^2 := by
 /-- In the critically damped regime, `k = m * decayRate^2`. -/
 lemma k_eq_m_mul_decayRate_sq_of_criticallyDamped (hS : S.IsCriticallyDamped) :
     S.k = S.m * S.decayRate^2 := by
-  have hωa : S.ω = S.decayRate := S.isCriticallyDamped_decayRate hS
-  have hωsq : S.decayRate ^ 2 = S.k / S.m := by
-    simpa [hωa] using S.ω_sq
-  field_simp [S.m_ne_zero] at hωsq
-  nlinarith
+  rw [S.k_eq_m_mul_ω_sq, S.isCriticallyDamped_decayRate hS]
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean:325]: good

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 2]
```diff
@@ -168,22 +168,16 @@ lemma energy_dissipation_rate (xₜ : Time → EuclideanSpace ℝ (Fin 1)) (t :
...
-  simp only
-  have heom := h1 t
   have hforce : S.m • ∂ₜ (∂ₜ xₜ) t + S.k • xₜ t = - S.γ • ∂ₜ xₜ t := by
-    have hsum : (S.m • ∂ₜ (∂ₜ xₜ) t + S.k • xₜ t) + S.γ • ∂ₜ xₜ t = 0 := by
-      simpa [add_assoc, add_left_comm, add_comm] using heom
-    simpa [neg_smul] using eq_neg_of_add_eq_zero_left hsum
-  rw [hforce]
-  simp [inner_smul_right]
+    linear_combination (norm := module) h1 t
+  simp [hforce, inner_smul_right]
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean:188]: Interesting

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 3]
```diff
@@ -283,40 +270,23 @@ lemma discriminant_eq_four_mul_m_sq_mul_decayRate_sq_sub_ω_sq :
...
-      have hsq : 0 < S.m^2 := sq_pos_of_pos S.m_pos
-      nlinarith
-    exact ne_of_gt hm_sq_pos
-  have hsq : S.decayRate^2 = S.ω^2 := by
-    have hsub : S.decayRate^2 - S.ω^2 = 0 := by
-      exact (mul_eq_zero.mp hS).resolve_left hm_sq_ne_zero
-    linarith
+  rw [IsCriticallyDamped, discriminant_eq_four_mul_m_sq_mul_decayRate_sq_sub_ω_sq] at hS
+  have hsq : S.decayRate ^ 2 = S.ω ^ 2 := by nlinarith [sq_pos_of_pos S.m_pos]
   nlinarith [S.decayRate_nonneg, S.ω_pos]
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean:310]: interesting

File: Physlib/ClassicalMechanics/HarmonicOscillator/Basic.lean [hunk 4]
```diff
@@ -261,56 +251,30 @@ lemma kineticEnergy_deriv (xₜ : Time → EuclideanSpace ℝ (Fin 1)) (hx : Con
...
-  congr 1
-  simp only [smul_add]
-  module
-  repeat fun_prop
+  have hd : DifferentiableAt ℝ (∂ₜ xₜ) t :=
+    (deriv_differentiable_of_contDiff xₜ hx).differentiableAt
+  rw [Time.deriv_eq, fderiv_const_mul (by fun_prop), _root_.smul_apply,
+    fderiv_inner_apply (𝕜 := ℝ) hd hd, ← Time.deriv_eq]
+  simp [inner_smul_right, real_inner_comm]
+  ring
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Basic.lean:259]: interesting

File: Physlib/ClassicalMechanics/HarmonicOscillator/Basic.lean [hunk 5]
```diff
@@ -374,54 +335,26 @@ The lagrangian is smooth in all its arguments.
...
-      · exact contDiff_const
-    · exact ContDiff.inner (𝕜 := ℝ) (contDiff_snd.comp contDiff_snd)
-        (contDiff_snd.comp contDiff_snd)
-  · apply ContDiff.mul
-    · apply ContDiff.mul
-      · exact contDiff_const
-      · exact contDiff_const
-    · exact ContDiff.inner (𝕜 := ℝ) (contDiff_fst.comp contDiff_snd)
-        (contDiff_fst.comp contDiff_snd)
+  fun_prop
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Basic.lean:338]: fun

File: Physlib/ClassicalMechanics/HarmonicOscillator/Basic.lean [hunk 6]
```diff
@@ -576,21 +502,8 @@ lemma gradLagrangian_eq_force (xₜ : Time → EuclideanSpace ℝ (Fin 1)) (hx :
...
-    have hd : DifferentiableAt ℝ (∂ₜ xₜ) t :=
-      (deriv_differentiable_of_contDiff xₜ hx).differentiableAt
-    calc
-      ∂ₜ (fun t' => S.m • ∂ₜ xₜ t') t
-          = fderiv ℝ (fun t' => S.m • ∂ₜ xₜ t') t 1 := rfl
-      _ = S.m • (fderiv ℝ (∂ₜ xₜ) t 1) := by
-          exact congrArg (fun L => L 1) (fderiv_const_smul (c := S.m) (f := ∂ₜ xₜ) hd)
-      _ = S.m • ∂ₜ (∂ₜ xₜ) t := rfl
+  simp [gradient_lagrangian_position_eq, gradient_lagrangian_velocity_eq, force_eq_linear,
+    Time.deriv_smul _ S.m (deriv_differentiable_of_contDiff xₜ hx)]
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Basic.lean:506]: interesting

File: Physlib/ClassicalMechanics/HarmonicOscillator/Basic.lean [hunk 7]
```diff
@@ -786,33 +675,24 @@ lemma gradient_hamiltonian_position_eq (t : Time) (x : EuclideanSpace ℝ (Fin 1
...
-    field_simp
-    ring_nf
-    simp [mul_two]
+    funext y
+    simp only [hamiltonian_eq]
+    ring
   change gradient (fun y : EuclideanSpace ℝ (Fin 1) => hamiltonian S t p y) x = S.k • x
   rw [h_eq, gradient_add_const', gradient_const_mul_inner_self]
-  ext; simp
+  module
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Basic.lean:683]: likes to use module

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 8]
```diff
@@ -621,12 +606,8 @@ lemma toInitialConditions_trajectory_at_t₀ (S : HarmonicOscillator)
   rw [InitialConditions.trajectory_eq, toInitialConditions]
   ext i
   simp only [smul_add, PiLp.add_apply, PiLp.smul_apply, PiLp.sub_apply, smul_eq_mul]
-  have h1 : cos (S.ω * IC.t₀.val) ^ 2 + sin (S.ω * IC.t₀.val) ^ 2 = 1 :=
-    cos_sq_add_sin_sq (S.ω * IC.t₀.val)
   field_simp [S.ω_ne_zero]
-  nth_rw 2 [← mul_one (S.ω * IC.x_t₀.ofLp i)]
-  rw [← h1]
-  ring
+  linear_combination (S.ω * IC.x_t₀.ofLp i) * cos_sq_add_sin_sq (S.ω * IC.t₀.val)
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean:610]: likes linear_combination

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 9]
```diff
@@ -962,25 +932,7 @@ lemma trajectory_velocity_eq_zero_iff_sin_eq_zero (IC : InitialConditions)
...
-    rcases mul_eq_zero.mp hprod with hAω | hsin
-    · rcases mul_eq_zero.mp hAω with hA0 | hω
-      · exact (hA hA0).elim
-      · exact (S.ω_ne_zero hω).elim
-    · exact hsin
-  · intro h
-    ext i
-    fin_cases i
-    simp [h]
+  simp [hA, S.ω_ne_zero]
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean:935]: noteworthy

File: Physlib/Electromagnetism/Dynamics/KineticTerm.lean [hunk 10]
```diff
@@ -449,122 +346,38 @@ lemma kineticTerm_add_time_mul_const {d} {𝓕 : FreeSpace} (A : Electromagnetic
...
+        ((if μ = Sum.inl 0 then 2 * (c ν * η μ μ * η ν ν * ∂_ μ A x ν) +
+            η μ μ * η ν ν * c ν ^ 2 - c ν * ∂_ ν A x μ else 0) -
+          (if ν = Sum.inl 0 then c μ * ∂_ μ A x ν else 0) -
+          (if μ = Sum.inl 0 then c ν else 0) * (if ν = Sum.inl 0 then c μ else 0)) := by
+    split_ifs <;> ring
+  simp only [key]
+  simp only [Finset.sum_add_distrib, Finset.sum_sub_distrib, Finset.sum_ite_irrel,
+    Finset.sum_const_zero, Finset.sum_ite_eq', Finset.mem_univ, ↓reduceIte, mul_ite, ite_mul,
+    mul_zero, zero_mul, inl_0_inl_0, one_mul, mul_one, two_mul, add_mul, mul_add]
+  ring
```
Comment (jstoobysmith) [inline Physlib/Electromagnetism/Dynamics/KineticTerm.lean:380]: noteworthy

File: Physlib/Electromagnetism/Dynamics/KineticTerm.lean [hunk 11]
```diff
@@ -449,122 +346,38 @@ lemma kineticTerm_add_time_mul_const {d} {𝓕 : FreeSpace} (A : Electromagnetic
...
-      ring
-    _ = A.kineticTerm 𝓕 x +
-        (-1 / (2 * 𝓕.μ₀) * ∑ ν, ((2 * c ν * η ν ν * ∂_ (Sum.inl 0) A x ν + η ν ν * c ν ^ 2 -
-        2 * c ν * (∂_ ν A x (Sum.inl 0)))) + 1/(2 * 𝓕.μ₀) * c (Sum.inl 0) ^2) := by
-          simp only [Fin.isValue, mul_ite, mul_zero, Finset.sum_sub_distrib, Finset.sum_ite_eq',
-            Finset.mem_univ, ↓reduceIte, one_div, add_right_inj]
-          ring
+  rw [kineticTerm_eq_sum_potential, kineticTerm_eq_sum_potential]
+  simp only [hdiff]
+  have key (μ ν : Fin 1 ⊕ Fin d) :
```
Comment (jstoobysmith) [inline Physlib/Electromagnetism/Dynamics/KineticTerm.lean:366]: It really likes 'key'

File: Physlib/Electromagnetism/Vacuum/IsPlaneWave.lean [hunk 12]
```diff
@@ -226,23 +214,10 @@ lemma electricField_time_deriv {d : ℕ}
...
-  simp only [FunLike.coe_smul, Pi.smul_apply, Time.fderiv_val, smul_eq_mul, mul_one]
-  · fun_prop
-  · fun_prop
-  · fun_prop
-  · exact (P.electricFunction_differentiable hA).differentiableAt
-  · fun_prop
+  have h : A.electricField 𝓕.c = planeWave P.electricFunction 𝓕.c.val s :=
+    Classical.choose_spec P.1
+  rw [h, planeWave_time_deriv (P.electricFunction_differentiable hA)]
+  simp [planeWave_eq]
```
Comment (jstoobysmith) [inline Physlib/Electromagnetism/Vacuum/IsPlaneWave.lean:220]: noteworthy

File: Physlib/Mathematics/Calculus/Wirtinger/Basic.lean [hunk 13]
```diff
@@ -215,50 +215,47 @@ rule.
...
     dWirtingerDir (g + h) v u = dWirtingerDir g v u + dWirtingerDir h v u := by
-  simp only [dWirtingerDir_apply, fderiv_add hg hh, add_apply]; ring
+  simp [dWirtingerDir_apply, fderiv_add hg hh, mul_sub, mul_add, add_sub_add_comm]
 
 /-- Additivity of `dWirtingerAntiDir`, `∂̄_v(g + h) = ∂̄_v g + ∂̄_v h`. -/
 lemma dWirtingerAntiDir_add {g h : V → ℂ} (hg : DifferentiableAt ℝ g u)
     (hh : DifferentiableAt ℝ h u) (v : V) :
     dWirtingerAntiDir (g + h) v u = dWirtingerAntiDir g v u + dWirtingerAntiDir h v u := by
-  simp only [dWirtingerAntiDir_apply, fderiv_add hg hh, add_apply]; ring
+  simp [dWirtingerAntiDir_apply, fderiv_add hg hh, mul_add, add_add_add_comm]
```
Comment (jstoobysmith) [inline Physlib/Mathematics/Calculus/Wirtinger/Basic.lean]: Nice!

File: Physlib/Particles/FlavorPhysics/CKMMatrix/Basic.lean [hunk 14]
```diff
@@ -185,121 +150,60 @@ namespace phaseShiftApply
...
-  simp only [Fin.isValue, phaseShiftApply_coe]
-  rw [mul_apply, Fin.sum_univ_three]
-  rw [mul_apply, mul_apply, mul_apply, Fin.sum_univ_three, Fin.sum_univ_three, Fin.sum_univ_three]
-  simp only [Fin.isValue, cons_val', cons_val_zero, empty_val', cons_val_fin_one, vecCons_const,
-    cons_val_two, tail_val', head_val', cons_val_one, head_cons, tail_cons, head_fin_const,
-    zero_mul, add_zero, mul_zero]
-  change (0 * _ + _) * _ + (0 * _ + _) * 0 = _
-  simp only [Fin.isValue, zero_mul, zero_add, mul_zero, add_zero]
-  rw [exp_add]
+  simp [phaseShiftApply_coe, mul_apply, Fin.sum_univ_three, exp_add]
```
Comment (jstoobysmith) [inline Physlib/Particles/FlavorPhysics/CKMMatrix/Basic.lean]: These are a bit bad as not simp only, but still better.

File: Physlib/Particles/StandardModel/HiggsBoson/Basic.lean [hunk 15]
```diff
@@ -715,17 +641,9 @@ lemma inner_neg_right (φ1 φ2 : HiggsField) :
...
-    (((((φ1.apply_re_smooth 0).smul (φ2.apply_re_smooth 0)).add
-    ((φ1.apply_re_smooth 1).smul (φ2.apply_re_smooth 1))).add
-    ((φ1.apply_im_smooth 0).smul (φ2.apply_im_smooth 0))).add
-    ((φ1.apply_im_smooth 1).smul (φ2.apply_im_smooth 1))).prodMk_space $
-    ((((φ1.apply_re_smooth 0).smul (φ2.apply_im_smooth 0)).add
-    ((φ1.apply_re_smooth 1).smul (φ2.apply_im_smooth 1))).sub
-    ((φ1.apply_im_smooth 0).smul (φ2.apply_re_smooth 0))).sub
-    ((φ1.apply_im_smooth 1).smul (φ2.apply_re_smooth 1))
+    ⟪φ1, φ2⟫_(SpaceTime → ℂ) :=
+  ContDiff.contMDiff <|
```
Comment (jstoobysmith) [inline Physlib/Particles/StandardModel/HiggsBoson/Basic.lean:645]: Nice

File: Physlib/Particles/SuperSymmetry/SU5/ChargeSpectrum/MinimallyAllowsTerm/OfFinset.lean [hunk 16]
```diff
@@ -98,9 +98,7 @@ def toMultisetsOne (s : Finset 𝓩) : Multiset (Multiset 𝓩) :=
 @[simp]
 lemma mem_toMultisetsOne_iff [DecidableEq 𝓩] {s : Finset 𝓩} (X : Multiset 𝓩) :
     X ∈ toMultisetsOne s ↔ X.toFinset ⊆ s ∧ X.card = 1 := by
-  simp [toMultisetsOne, Multiset.card_eq_one]
-  rintro x rfl
-  simp
+  simp +contextual [toMultisetsOne, Multiset.card_eq_one]
```
Comment (jstoobysmith) [inline Physlib/Particles/SuperSymmetry/SU5/ChargeSpectrum/MinimallyAllowsTerm/OfFinset.lean:101]: Nice

File: Physlib/QFT/PerturbationTheory/WickContraction/InsertAndContractNat.lean [hunk 17]
```diff
@@ -131,31 +131,14 @@ lemma insertAndContractNat_of_isSome (c : WickContraction n) (i : Fin n.succ)
...
-  obtain ⟨x, y, hxy, ha⟩ := hc
-  subst ha
-  subst ha'
-  rw [Finset.mapEmbedding_apply]
-  simp only [Nat.succ_eq_add_one, Finset.map_insert, Fin.succAboveEmb_apply, Finset.map_singleton,
-    Finset.mem_insert, Finset.mem_singleton, not_or]
-  apply And.intro
-  · exact Fin.ne_succAbove i x
-  · exact Fin.ne_succAbove i y
+  simp [mem_uncontracted_iff_not_contracted, insertAndContractNat, Finset.mapEmbedding_apply,
```
Comment (jstoobysmith) [inline Physlib/QFT/PerturbationTheory/WickContraction/InsertAndContractNat.lean]: Nice

File: Physlib/QFT/PerturbationTheory/WickContraction/InsertAndContractNat.lean [hunk 18]
```diff
@@ -167,146 +150,32 @@ lemma self_not_mem_uncontracted_of_insertAndContractNat_some (c : WickContractio
...
-          Finset.mem_singleton, not_or, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
-        apply And.intro
-        · rw [Function.Injective.eq_iff (Fin.succAbove_right_injective)]
-          exact And.intro (Fin.succAbove_ne i z) (fun a => hjz a.symm)
-        · rw [mem_uncontracted_iff_not_contracted] at hz'
-          exact fun a ha hc => hz'.1 a ha ((Finset.mem_map' (i.succAboveEmb)).mp hc)
+  rcases Fin.eq_self_or_eq_succAbove i k with rfl | ⟨z, rfl⟩
+  · simp [Fin.ne_succAbove]
+  · simp [insertAndContractNat, mem_uncontracted_iff_not_contracted, Fin.succAbove_ne,
+      Finset.mapEmbedding_apply, and_comm, -Finset.le_eq_subset]
```
Comment (jstoobysmith) [inline Physlib/QFT/PerturbationTheory/WickContraction/InsertAndContractNat.lean]: Nice

File: Physlib/QFT/PerturbationTheory/WickContraction/InsertAndContractNat.lean [hunk 19]
```diff
@@ -315,24 +184,7 @@ lemma insertAndContractNat_some_uncontracted (c : WickContraction n) (i : Fin n.
...
-    use z
-    subst h2
-    simp only [true_and]
-    obtain ⟨a, ha1, ha2⟩ := h.2
-    rw [Function.Injective.eq_iff (Fin.succAbove_right_injective)] at ha2
-    subst ha2
-    simp_all only [true_and]
-    rw [Function.Injective.eq_iff (Fin.succAbove_right_injective)] at h
-    exact h.1
+  grind [Fin.succAbove_right_inj]
```
Comment (jstoobysmith) [inline Physlib/QFT/PerturbationTheory/WickContraction/InsertAndContractNat.lean:242]: NIce

File: Physlib/QFT/PerturbationTheory/WickContraction/Sign/InsertSome.lean [hunk 20]
```diff
@@ -85,125 +69,35 @@ lemma signFinset_insertAndContract_some (φ : 𝓕.FieldOp) (φs : List 𝓕.Fie
...
+      · split <;> simp_all [succAbove_mem_insertAndContractLiftFinset]
+    · simp only [Nat.succ_eq_add_one, signFinset, finCongr_apply, Finset.mem_filter,
+        Finset.mem_univ, true_and, ne_eq, hkj, not_false_eq_true,
+        insertAndContract_some_succAbove_getDual?_eq_option, Option.map_eq_none_iff,
+        Option.isSome_map, Option.get_map, Function.comp_apply, Fin.cast_lt_cast,
+        Fin.succAbove_lt_succAbove_iff]
+      split
+      · simp [Fin.cast_inj, Fin.succAbove_ne, succAbove_mem_insertAndContractLiftFinset]
+      · split <;> simp [Fin.cast_inj, Fin.succAbove_right_injective.eq_iff, hkj,
+          succAbove_mem_insertAndContractLiftFinset]
```
Comment (jstoobysmith) [inline Physlib/QFT/PerturbationTheory/WickContraction/Sign/InsertSome.lean]: Nice

File: Physlib/QFT/PerturbationTheory/WickContraction/Sign/InsertSome.lean [hunk 21]
```diff
@@ -442,73 +277,28 @@ lemma stat_signFinset_insert_some_self_fst
...
-          omega
-        · have hy2 := hy1.2.2
-          rcases hy2 with hy2 | hy2
-          · simp [hy2]
-          · apply Or.inr
-            intro h
-            have hy2 := hy2 h
-            simpa [Option.get_map] using hy2
+        Option.isSome_map, Option.get_map, Function.comp_apply, Fin.cast_lt_cast, Fin.cast_inj,
+        Fin.succAbove_right_injective.eq_iff, exists_eq_right, Fin.succAbove_lt_succAbove_iff]
```
Comment (jstoobysmith) [inline Physlib/QFT/PerturbationTheory/WickContraction/Sign/InsertSome.lean:392]: Nice

File: Physlib/QFT/PerturbationTheory/WickContraction/Sign/InsertSome.lean [hunk 22]
```diff
@@ -647,91 +389,32 @@ lemma signInsertSome_mul_filter_contracted_of_lt (φ : 𝓕.FieldOp) (φs : List
...
-        simp_all only [and_false, or_false, imp_false, not_lt, Nat.succ_eq_add_one, not_le]
-        apply And.intro
-        · apply Or.inr
-          omega
-        · intro h1 h2 h3
-          omega
-      · simp_all only [Fin.getElem_fin, ne_eq, not_lt, false_and, false_or, or_false, and_self,
-        or_true, imp_self]
-        omega
+    omega
```
Comment (jstoobysmith) [inline Physlib/QFT/PerturbationTheory/WickContraction/Sign/InsertSome.lean]: Nice

File: Physlib/QFT/PerturbationTheory/WickContraction/UncontractedList.lean [hunk 23]
```diff
@@ -599,51 +521,37 @@ def uncontractedListOrderPos (c : WickContraction n) (i : Fin n.succ) : ℕ :=
...
-  have h2 : (c.uncontractedList.filter (fun x => x.1 < i.1)).Nodup := by
-    refine List.Nodup.filter _ ?_
-    exact uncontractedList_nodup c
-  have h3 : (c.uncontractedList.filter (fun x => x.1 < i.1)).toFinset =
-    (c.uncontracted.filter (fun x => x.1 < i.1)) := by
-    rw [uncontractedList_eq_sort]
-    simp
-  rw [← h3]
-  exact ((List.toFinset_sort (α := Fin n) (· ≤ ·) h2).mpr h1).symm
+  exact filter_uncontractedList c fun x => x.1 < i.1
```
Comment (jstoobysmith) [inline Physlib/QFT/PerturbationTheory/WickContraction/UncontractedList.lean:537]: nice

File: Physlib/QuantumMechanics/OneDimension/Operators/Unbounded.lean [hunk 24]
```diff
@@ -58,18 +58,7 @@ lemma isGeneralizedEigenvector_ofSelfCLM_iff {Op : S →L[ℂ] S}
...
-    simp at hψ'
-    rw [hι.eq_iff] at hψ'
-    subst hψ'
-    exact hF
-  · intro h ψ
-    use Op ψ
-    constructor
-    · simp
-    · rw [h ψ]
+  simp only [IsGeneralizedEigenvector, ofSelfCLM_apply, hι.eq_iff, exists_eq_left]
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/OneDimension/Operators/Unbounded.lean:61]: Nice

File: Physlib/Relativity/Tensors/Basic.lean [hunk 25]
```diff
@@ -175,26 +169,15 @@ def drop {n : ℕ} {c : Fin (n + 1) → C} (p : Pure S c) (i : Fin (n + 1)) :
...
-  by_cases h : j = k
-  · subst h
-    simp
-  · rw [Function.update_of_ne h, Function.update_of_ne]
-    · rfl
-    · simp only [ne_eq]
-      rw [Function.Injective.eq_iff (Fin.succAbove_right_injective (p := i))]
-      exact h
+    (update p (i.succAbove k) x).drop i = (p.drop i).update k x :=
+  Function.update_comp_eq_of_injective' p Fin.succAbove_right_injective k x
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Basic.lean:173]: nice

File: Physlib/Relativity/Tensors/Basic.lean [hunk 26]
```diff
@@ -718,52 +608,25 @@ lemma permT_basis_repr_symm_apply {n m : ℕ} {c : Fin n → C} {c1 : Fin m →
...
-    ext i
-    simp only [basisIdxCongr_apply_apply]
-    refine Eq.symm (ComponentIdx.congr_right b' i (IsReindexing.inv σ _ (σ i)) ?_)
-    simp [IsReindexing.apply_inv_apply]
-  · rintro rfl
-    ext i
-    simp only [basisIdxCongr_apply_apply]
-    apply ComponentIdx.congr_right
-    simp [IsReindexing.inv_apply_apply]
+  rw [basis_apply, permT_pure, Pure.permP_basisVector, ← basis_apply]
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Basic.lean:620]: nice

File: Physlib/Relativity/Tensors/RealTensor/ToComplex.lean [hunk 27]
```diff
@@ -180,72 +179,19 @@ lemma toComplex_repr {n} {c : Fin n → realLorentzTensor.Color}
...
-    simp_rw [hm]
-    simp only [Finsupp.coe_smul, Pi.smul_apply, smul_eq_mul, Basis.repr_self, Finsupp.single_apply]
-    split_ifs with h
-    · exfalso
-      exact hk h
-    · rw [mul_zero]
+  rw [toComplex_eq_sum_basis, map_sum]
+  simp only [← Complex.coe_smul, map_smul, Finsupp.coe_finsetSum, Finset.sum_apply,
+    Finsupp.smul_apply, Basis.repr_self, Finsupp.single_apply, smul_eq_mul, mul_ite, mul_one,
+    mul_zero, Finset.sum_ite_eq', Finset.mem_univ, if_true, Equiv.symm_apply_apply]
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/RealTensor/ToComplex.lean:185]: good

File: Physlib/Relativity/Tensors/RealTensor/ToComplex.lean [hunk 28]
```diff
@@ -794,68 +643,17 @@ lemma contrT_toComplex {n : ℕ}
...
-        refine (by
-          simp [map_smul, ht])
-      · -- addition
-        intro t1 t2 h1 h2
-        dsimp [P] at h1 h2 ⊢
-        refine (by
-          simp [map_add, h1, h2])
-    exact hP'
-  exact hP t
+  induction t using induction_on_basis with
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/RealTensor/ToComplex.lean:646]: good

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 29]
```diff
@@ -541,37 +535,9 @@ lemma exists_curl_of_div_zero (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : C
...
-      zero_smul, zero_mul, sub_zero]
-    · apply Continuous.intervalIntegrable
-      fun_prop
   use fun x => ∫ (t : ℝ) in 0..1, homotopyOperatorIntegrand f x t ∂(volume)
-  apply And.intro
-  swap
-  · intro x
-    exact (hasFDerivAt_intervalIntegral_homotopyOperatorIntegrand (hf) _).differentiableAt
-  · exact eq_neg_curl_of_div_zero f hf hdiv
+  exact ⟨eq_neg_curl_of_div_zero f hf hdiv,
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean:539]: good

File: Physlib/SpaceAndTime/Space/Derivatives/Grad.lean [hunk 30]
```diff
@@ -564,21 +516,7 @@ lemma distGrad_eq_sum_basis {d} (f : (Space d) →d[ℝ] ℝ) (η : 𝓢(Space d
...
-      EuclideanSpace.single i 1), y⟫_ℝ = 0 := by
-    intro y
-    rw [inner_sub_left, hx y]
-    simp
-  have h2 := h1 (∇ᵈ f η -
-    (∑ i, - f (SchwartzMap.evalCLM ℝ (Space d) ℝ (basis i) (fderivCLM ℝ (Space d) ℝ η)) •
-    EuclideanSpace.single i 1))
-  rw [inner_self_eq_zero, sub_eq_zero] at h2
-  rw [h2]
+  rw [distGrad_inner_eq, h1]
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Derivatives/Grad.lean]: odd

File: Physlib/SpaceAndTime/Space/IsDistBounded.lean [hunk 31]
```diff
@@ -485,54 +431,20 @@ lemma integrable_mul_inv_pow {d : ℕ}
...
-      · positivity
-      · simp
-        omega
-    · positivity
-    · positivity
-    · positivity
-    · positivity
-  · refine Measurable.aestronglyMeasurable ?_
-    fun_prop
+    change ‖x‖ ^ (q + m) ≤ _
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/IsDistBounded.lean:442]: good

File: Physlib/SpaceAndTime/Space/Norm/Basic.lean [hunk 32]
```diff
@@ -614,111 +463,66 @@ lemma gradient_dist_normPowerSeries_zpow_tendsTo {d : ℕ} [NeZero d] (m : ℤ)
...
-    · ring
-    · ring
+  · filter_upwards [Measure.ae_ne volume 0] with x hx
+    have h2 : ⟪((m : ℝ) * ‖x‖ ^ (m - 2)) • basis.repr x, y⟫_ℝ =
+        (m : ℝ) * (⟪basis.repr x, y⟫_ℝ * ‖x‖ ^ (m - 2)) := by
+      rw [real_inner_smul_left]
+      ring
+    rw [h2]
+    exact tendsto_const_nhds.mul (tendsto_const_nhds.mul (tendsto_const_nhds.mul
+      ((normPowerSeries_tendsto x hx).zpow₀ _ (.inl (norm_ne_zero_iff.mpr hx)))))
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm/Basic.lean:525]: Good

File: Physlib/SpaceAndTime/Space/Norm/Basic.lean [hunk 33]
```diff
@@ -1438,18 +1124,7 @@ lemma distLaplacian_fundamentalSolution_norm_zpow {d : ℕ} :
...
-        ∇ᵈ ⬝ (distOfFunction
-          (fun x : Space d =>
-            ‖x‖ ^ (- (d : ℤ)) • basis.repr x)
-          (IsDistBounded.zpow_smul_repr_self (- (d : ℤ)) (by omega))) =
-          (d * (volume (α := Space d)).real
-            (Metric.ball 0 1)) • diracDelta ℝ 0 := by
-      exact distDiv_inv_pow_eq_dim (d := d)
-    rw [hdiv]
-    rw [smul_smul]
+    rw [hdist, map_smul, distDiv_inv_pow_eq_dim, smul_smul]
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm/Basic.lean:1127]: Good

File: Physlib/StatisticalMechanics/CanonicalEnsemble/Lemmas.lean [hunk 34]
```diff
@@ -148,84 +124,36 @@ lemma thermodynamicEntropy_eq_differentialEntropy_sub_correction
...
+        = fun i => -(T.β : ℝ) * 𝓒.energy i
+            - Real.log (𝓒.mathematicalPartitionFunction T) :=
+      funext fun i => 𝓒.log_probability T i
+    rw [h_eq]
+    exact (hE.const_mul _).sub (integrable_const _)
+  simp only [thermodynamicEntropy_def, differentialEntropy]
+  rw [integral_congr_ae (ae_of_all _ fun i => 𝓒.log_physicalProbability T i),
+    integral_add h_int_log_prob (integrable_const _), integral_const]
+  simp only [probReal_univ, smul_eq_mul]
+  ring
```
Comment (jstoobysmith) [inline Physlib/StatisticalMechanics/CanonicalEnsemble/Lemmas.lean:138]: good

File: Physlib/StatisticalMechanics/CanonicalEnsemble/Lemmas.lean [hunk 35]
```diff
@@ -276,71 +202,11 @@ theorem differentialEntropy_eq_meanEnergy_sub_helmholtz_div_temp_add_correction
...
-            + kB * (𝓒.dof : ℝ) * Real.log 𝓒.phaseSpaceunit := by
-              simp [hS_phys, add_comm, add_left_comm]
-    _ = (E - 𝓒.helmholtzFreeEnergy T) / T.val
-            + kB * 𝓒.dof * Real.log 𝓒.phaseSpaceunit := by
-              rw [hEF]
+  have hTne : (T.val : ℝ) ≠ 0 := by exact_mod_cast hT.ne'
+  rw [differentialEntropy_eq_kB_beta_meanEnergy_add_kB_log_mathZ 𝓒 T hE,
+    helmholtzFreeEnergy_def, log_partitionFunction, kB_mul_beta T hT]
+  field_simp
+  ring
```
Comment (jstoobysmith) [inline Physlib/StatisticalMechanics/CanonicalEnsemble/Lemmas.lean:209]: good

File: Physlib/Units/UnitDependent.lean [hunk 36]
```diff
@@ -199,45 +192,22 @@ noncomputable instance : UnitDependent UnitChoices where
...
-    simp [scaleUnit]
-    simp [MassUnit.div_eq_val, toReal]
-  · congr 1
-    simp [scaleUnit]
-    simp [ChargeUnit.div_eq_val, toReal]
-  · congr 1
-    simp [scaleUnit]
-    simp [TemperatureUnit.div_eq_val, toReal]
+  simp [dimScale, scaleUnit]
+  simp [LengthUnit.div_eq_val, TimeUnit.div_eq_val, MassUnit.div_eq_val, ChargeUnit.div_eq_val,
```
Comment (jstoobysmith) [inline Physlib/Units/UnitDependent.lean:203]: Weird

**Review by jstoobysmith — COMMENTED** [review]
Picked out first instance of something novel

**Comment by jstoobysmith** [comment]
The change in heartbeats `Physlib/Relativity/LorentzGroup/Restricted/Basic.lean` is huge (in the right direction :)) !

Also merge conflict :).

**Comment by Vilin97** [comment]
good to merge once you are happy with it

File: scripts/__pycache__/check_golf.cpython-312.pyc
Comment (jstoobysmith) [inline scripts/__pycache__/check_golf.cpython-312.pyc:1]: This file again. Maybe we should add .pyc to the gitignore

Comment (jstoobysmith) [reply scripts/__pycache__/check_golf.cpython-312.pyc:1]: But also need to delete it here

File: Physlib/Particles/FlavorPhysics/CKMMatrix/Basic.lean (hunk 14 above)
Comment (Vilin97) [reply Physlib/Particles/FlavorPhysics/CKMMatrix/Basic.lean]: Squeezed all nine of these to `simp only [...]` in 6a01b6f4.

File: Physlib/SpaceAndTime/Space/Derivatives/Grad.lean (hunk 30 above)
Comment (Vilin97) [reply Physlib/SpaceAndTime/Space/Derivatives/Grad.lean]: Agreed — replaced the `rw` dance with a direct `(distGrad_inner_eq f η y).trans h1.symm` in 6a01b6f4.

File: scripts/__pycache__/check_golf.cpython-312.pyc
Comment (jstoobysmith) [reply scripts/__pycache__/check_golf.cpython-312.pyc:1]: Still needs deleting from here :)

Comment (Vilin97) [reply scripts/__pycache__/check_golf.cpython-312.pyc:1]: Gone for good now — rewrote the merge commit so the .pyc never enters this branch's history at all (it had sneaked into the merge via an untracked `__pycache__`). The tip tree is unchanged (byte-identical to the already-built state), and every commit in the PR is now pyc-free. #1408 adds it to .gitignore so this stops happening.

**Review by jstoobysmith — APPROVED** [review]
Approved - will merge now :)
